US09359359B2
To a solution of 7-benzyl-3-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione (6.0 g, 16.13 mmol) in DMF (50 mL) was added NCS (3.23 g, 24.19 mmol) and the resulting mixture was stirred at room temperature for 8 h. The mixture was diluted with ethyl acetate and water, and the phases were separated. The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated to give 7-benzyl-8-chloro-3-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione (5.1 g, 77.9% yield) as light yellow oil. Product tlc [petroleum ether/ethyl acetate (15:1) iodine detection, Rf 0.6)

reactant | 7-benzyl-3-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione | 16.13 mmol, 6.0 g | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)COCC[Si](C)(C)C | C18H24N4O3Si
reactant | NCS | 24.19 mmol, 3.23 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-benzyl-8-chloro-3-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione | 5.1 g, 77.9% yield | C(C1=CC=CC=C1)N1C(=NC=2N(C(NC(C12)=O)=O)COCC[Si](C)(C)C)Cl | C18H23ClN4O3Si
